US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(thiazol-2-ylethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (50 mg, 0.273 mmol) and 2-acetylthiazole (41 mg, 0.33 mmol) similar to Example 3 and isolated as an off-white solid (30 mg, 37%). 1H NMR (DMSO-d6): 9.98 (s, 1H), 9.62 (s, 1H), 7.89 (m, 2H), 7.77 (m, 1H), 6.16 (ddd, J=8.1, 5.1, 2.7 Hz, 2H), 4.23 (m, 1H), 3.04 (s, 2H), 2.23 (s, 3H), 1.87-1.50 (m, 4H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.273 mmol, 50 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 2-acetylthiazole | 0.33 mmol, 41 mg | C(C)(=O)C=1SC=CN1 | C5H5NOS
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(thiazol-2-ylethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CCC=2SC=CN2)=S | C13H16N4S2
